US08357707B2
Intermediate R: (2S,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid amide
A solution of (2S,4S)-4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride (1 g) in a 7M solution of ammonia in MeOH (10 ml) was stirred for 18 h then evaporated and triturated with Et2O. The residue was dissolved in the minimum volume of hot MeOH and stood at 4° C. for 4 h. The title compound was isolated by filtration as a white solid.

reactant | (2S,4S)-4-hydroxy-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | 1 g | Cl.COC(=O)[C@H]1NC[C@H](C1)O
reactant | ammonia | N | H3N
solvent | MeOH | 10 ml | CO | CH4O
product | (2S,4S)-4-Hydroxy-pyrrolidine-2-carboxylic acid amide | O[C@H]1C[C@H](NC1)C(=O)N | C5H10N2O2
